US07030128B2
6-Bromo-2,3′-bipyridine (0.37 g, 1.6 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.6 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with dichloromethane on a gradient of methanol (0-5%) and trituration with isohexane gave 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2,3′-bipyridine (130 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 7.40 (1H, d, J 7), 7.50 (1H, dd, J 8 and 8), 7.72 (1H, d, J 8), 7.85 (1H, d, J 8), 7.97 (1H, dd, J 8 and 8), 8.30 (1H, m), 8.59 (1H, s), 8.75 (1H, m), 9.29 (1H, s), 10.51 (1H, d, J 7); m/z (ES+) 341 (M++H).

reactant | 6-Bromo-2,3′-bipyridine | 1.6 mmol, 0.37 g | BrC1=CC=CC(=N1)C=1C=NC=CC1 | C10H7BrN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.6 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2,3′-bipyridine | 130 mg | FC(C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C=2C=NC=CC2)(F)F | C17H10F3N5
